// Generated for: spectre
// Generated on: May  3 21:15:23 2023
// Design library name: devices
// Design cell name: nand2_pulse_tb
// Design view name: config
simulator lang=spectre
global 0 vdd!
parameters vSupply=1.1
include "/eda/designKits/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: devices
// Cell name: nand2
// View name: av_extracted
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
//pspice dspf layout av_extracted
subckt nand2 A B out
    PM0 (out B vdd! vdd!) g45p1svt w=(2.4e-07) l=4.5e-08 nf=1 as=3.36e-14 \
        ad=3.84e-14 ps=7.6e-07 pd=8e-07 nrd=1.16667 nrs=1.16667 sa=1.4e-07 \
        sb=3.45e-07 sd=160n sca=86.767 scb=0.064003 scc=0.00955962 m=(1)
    PM1 (out A vdd! vdd!) g45p1svt w=(2.4e-07) l=4.5e-08 nf=1 as=3.36e-14 \
        ad=3.84e-14 ps=7.6e-07 pd=8e-07 nrd=1.16667 nrs=1.16667 sa=1.4e-07 \
        sb=3.45e-07 sd=160n sca=86.767 scb=0.064003 scc=0.00955962 m=(1)
    NM1 (net12 A out 0) g45n1svt w=(2.4e-07) l=4.5e-08 nf=1 as=3.36e-14 \
        ad=1.44e-14 ps=7.6e-07 pd=6e-07 nrd=1.16667 nrs=1.16667 \
        sa=2.45e-07 sb=1.4e-07 sd=160n sca=9.05646 scb=0.00745111 \
        scc=0.000194153 m=(1)
    NM0 (0 B net12 0) g45n1svt w=(2.4e-07) l=4.5e-08 nf=1 as=1.44e-14 \
        ad=3.36e-14 ps=6e-07 pd=7.6e-07 nrd=1.16667 nrs=1.16667 sa=1.4e-07 \
        sb=2.45e-07 sd=160n sca=9.05646 scb=0.00745111 scc=0.000194153 \
        m=(1)
ends nand2
// End of subcircuit definition.

// Library name: devices
// Cell name: nand2_pulse_tb
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
// pspice dspf layout av_extracted
C0 (_net0 0) capacitor c=1f
V0 (vdd! 0) vsource dc=vSupply type=dc
V4 (inB 0) vsource type=pulse val0=0 val1=vSupply period=200n delay=108n \
        rise=2n fall=2n width=98n
V1 (inA 0) vsource type=pulse val0=0 val1=vSupply period=100n delay=48n \
        rise=2n fall=2n width=48n
I5 (inA inB _net0) nand2
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=600n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" method=gear2only annotate=status save=allpub \
    maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save inA inB _net0 
saveOptions options save=all pwr=all
